US07319102B1
Preparation of (2-chlorophenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone (19):
To a solution of 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde, 18, (0.25 g, 0.95 mmol) in DMF (4 mL) is added 2-bromo-1-(2-chloro-phenyl)-ethanone (0.33 g, 1.42 mmol) and potassium carbonate (0.26 g, 1.90 mmol). The reaction mixture is stirred at room temp for 21 hours after which the reaction solution is diluted with EtOAc and washed three times with aqueous saturated NH4Cl. The organic phase is washed with brine, dried (MgSO4), filtered, concentrated in vacuo and the resulting residue is dissolved in DMF (6 mL) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.28 mL, 1.90 mmol) is added to the reaction. After stirring the reaction at room temp for 3 hours, the mixture is diluted with aqueous saturated NH4Cl solution and extracted with EtOAc. The organic phase is washed with brine, dried (MgSO4), filtered, concentrated in vacuo, and the resulting residue is purified over silica (33% EtOAc//hexanes) to afford 0.14 g of the desired product: 1H NMR (300 MHz, CDCl3) δ 8.92 (s, 1H), 7.52-7.35 (m, 4H), 7.00 (s, 1H), 6.14 (s, 1H), 3.67 (s, 3H), 2.55 (s, 3H), 2.37 (s, 3H); ESI+ MS: m/z (rel intensity) 398.0 (100, M++H).

reactant | 4-(2,5-dimethyl-2H-pyrazol-3-ylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | CN1N=C(C=C1NC1=NC(=NC=C1C=O)SC)C | C11H13N5OS
reactant | 2-bromo-1-(2-chloro-phenyl)-ethanone | 1.42 mmol, 0.33 g | BrCC(=O)C1=C(C=CC=C1)Cl | C8H6BrClO
reactant | potassium carbonate | 1.90 mmol, 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.90 mmol, 0.28 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4Cl | [NH4+].[Cl-]
product | (2-chlorophenyl)-[7-(2,5-dimethyl-2H-pyrazol-3-yl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-methanone | 0.14 g | ClC1=C(C=CC=C1)C(=O)C1=CC2=C(N=C(N=C2)SC)N1C=1N(N=C(C1)C)C | C19H16ClN5OS
